US08084448B2
D. N-{(S)-1-(1H-Benzoimidazol-2-yl)-2-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzenesulfonamide
A solution of N-{(S)-1-(1H-benzoimidazol-2-yl)-2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzenesulfonamide and K2CO3 (50 mg) in 10 mL of EtOH/water (1:1) is hydrogenated over 10% Pd/C (100 mg) at 1 atm for 18 h. The catalyst is filtered and the solvent is removed under reduced pressure. The residue is purified by reverse phase HPLC followed by lyophilization to give the title compound as a pink solid. (M−1)−: 526. HPLC retention time: 0.98 min. (Method A).

reactant | N-{(S)-1-(1H-benzoimidazol-2-yl)-2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzenesulfonamide | N1C(=NC2=C1C=CC=C2)[C@H](CC2=CC(=C(C=C2)N2S(NC(C2)=O)(=O)=O)OCC2=CC=CC=C2)NS(=O)(=O)C2=CC=CC=C2 | C30H27N5O6S2
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH water | 10 mL | CCO.O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-{(S)-1-(1H-Benzoimidazol-2-yl)-2-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzenesulfonamide | N1C(=NC2=C1C=CC=C2)[C@H](CC2=CC(=C(C=C2)N2S(NC(C2)=O)(=O)=O)O)NS(=O)(=O)C2=CC=CC=C2 | C23H21N5O6S2
